US05079251
Chlorine gas was passed through a stirred solution of 4-amino-3-cyanotrifluoromethyl-benzene (5 g) in carbon tetrachloride (75 ml) until the absence of starting material was confirmed by gas liquid chromatography. Flow of the gas was then stopped and evaporation of the solvent under reduced pressure gave 4-amino-3-chloro-5-cyano-trifluoromethyl benzene as an orange solid (5.5 g).

reactant | Chlorine | ClCl | Cl2
reactant | 4-amino-3-cyanotrifluoromethyl-benzene | 5 g | NC1=C(C=C(C=C1)C(F)(F)F)C#N | C8H5F3N2
solvent | carbon tetrachloride | 75 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-amino-3-chloro-5-cyano-trifluoromethyl benzene | 5.5 g | NC1=C(C=C(C=C1C#N)C(F)(F)F)Cl | C8H4ClF3N2
